US08957064B2
6-(2,4-difluorophenyl)-2-methyl-5-(4-{3-[5-(6-methyl-pyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine
164.5 mg 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine×2HCl (60% pure) are dissolved in 4.8 mL NMP. After addition of 0.2 mL triethylamine the reaction mixture is stirred for one hour. 200 mg (0.57 mmol) 4-[6-(2,4-Difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde and 0.06 mL acetic acid are added. The reaction mixture is stirred overnight at room temperature. 207.4 mg (0.98 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for another night. The reaction mixture is poured on saturated NaHCO3/ice water. The precipitate is filtered off, washed with water and dried. After chromatography of the precipitate on silica gel (dichloromethane/methanol) 92.2 mg (27.9%) of the desired product are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine | 164.5 mg | N1CC(C1)C1=NC(=NN1)C1=NC(=CC=C1)C | C11H13N5
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-[6-(2,4-Difluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde | 0.57 mmol, 200 mg | FC1=C(C=CC(=C1)F)C=1C(=NC=2N(C1)N=C(N2)C)C2=CC=C(C=O)C=C2 | C19H12F2N4O
reactant | NaBH(OAc)3 | 0.98 mmol, 207.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | NMP | 4.8 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.06 mL | C(C)(=O)O | C2H4O2
product | 6-(2,4-difluorophenyl)-2-methyl-5-(4-{3-[5-(6-methyl-pyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine | FC1=C(C=CC(=C1)F)C=1C(=NC=2N(C1)N=C(N2)C)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C | C30H25F2N9
